US08372307B2
3-(4′-Propyl-bicyclohexyl-4-yl)-propan-1-ol (5 g, 18.8 mmol) is dissolved in dichloromethane (50 ml) and triethylamine (3.5 ml) and a solution of methacryloyl chloride (2.2 ml, 21.8 mmol) in dichloromethane (30 ml) is added dropwise at 0° C. The reaction is stirred overnight, evaporated, filtered through silica with heptane/ethyl acetate (19:1) and the crude product is crystallised from ethanol to give 2-methyl acrylic acid 3-(4′-propyl-bicyclohexyl-4-yl)-propyl ester as colourless crystals.

reactant | 3-(4′-Propyl-bicyclohexyl-4-yl)-propan-1-ol | 18.8 mmol, 5 g | C(CC)C1CCC(CC1)C1CCC(CC1)CCCO | C18H34O
reactant | triethylamine | 3.5 ml | C(C)N(CC)CC | C6H15N
reactant | methacryloyl chloride | 21.8 mmol, 2.2 ml | C(C(=C)C)(=O)Cl | C4H5ClO
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 2-methyl acrylic acid 3-(4′-propyl-bicyclohexyl-4-yl)-propyl ester | C(CC)C1CCC(CC1)C1CCC(CC1)CCCOC(C(=C)C)=O | C22H38O2
